US05128448
1 g (0.41 mmol/g) of Boc-cyclohexylalanine-BAH resin was suspended and shaken in TFA/CH2Cl2 (1:1) by volume (3×40 mL) 10 min each time to remove the Boc group. The product was isolated by filtration and washed (3×50 mL each) with CH2Cl2, 8% DIEA in CH2Cl2 and CH2Cl2 to give the free base of cyclohexylalanine-BHA resin. This was subjected to sequential solid phase peptide synthesis using the Fmoc-protocol. All couplings except the last residue were performed using DCC/HOBt procedure. At step 7 the Fmoc amino acid, DCC and HOBt were added with the corresponding times as follows: Fmoc-Asp(OtBu)-OH (615 mg, 1.5 mmol), DCC (310 mg, 1.5 mmol) and HOBt (270 mg, 2 mmol) were dissolved in 20 mL of 1:1 by volume DMF/CH2Cl2 and allowed to couple for 60 min at room temperature. Fmoc-Met-OH (550 mg, 1.5 mmol), DCC (310 mg, 1.5 mmol) and HOBt (270 mg, 2 mmol) were dissolved in 20 mL of 1:1 by volume DMF/CH2Cl2 and allowed to couple for 60 min at room temperature. Fmoc-Trp-OH (650 mg, 1.5 mmol), DCC (310 mg, 1.5 mmol) and HOBt (270 mg, 2 mmol) were dissolved in 20 mL of 1:1 by volume DMF/CH2Cl2 and allowed to couple for 60 min at room temperature.

reactant | Boc-cyclohexylalanine | 1 g | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C1CCCCC1 | C14H25NO4
solvent | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | cyclohexylalanine | C1(CCCCC1)N[C@@H](C)C(=O)O | C9H17NO2
